US05008192
61 mg (0.5 mmol) of meta-hydroxybenzaldehyde were reacted at pH 3.25 with 450 μl of 4.2M aqueous HCN solution in accordance with Example 14. The reaction was complete after 30 to 40 minutes. The (S)-3-hydroxymandelonitrile was isolated as described in Example 14.

reactant | meta-hydroxybenzaldehyde | 0.5 mmol, 61 mg | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | HCN | 4.2M, 450 μl | C#N | CHN
product | (S)-3-hydroxymandelonitrile | OC=1C=C([C@@H](C#N)O)C=CC1 | C8H7NO2
